US07642264B2
2-[4-(3-Methanesulfonyl-phenyl)-imidazol-1-yl]-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyridine
A stirred mixture of 2-(4-tributylstannanyl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine (Example G.11) (0.718 g, 1.0 mmol), commercially available 3-bromophenylmethyl sulfone (259 mg, 1.1 mmol), tetrakis(triphenyl-phosphine)palladium (0.058 g, 0.050 mmol) in toluene (5 mL) was heated under reflux conditions for 18 h. Cooled to rt, some precipitate occurred, diluted with toluene (˜5 mL), placed in freezer for 30 min, added heptane (total volume: 25 mL), filtered the precipitate off, washed with toluene/heptane (ca. 1:1, 3×10 mL), purified by silica gel column chromatography with heptane/ethyl acetate followed by trituration with diethyl ether/heptane to give the title compound as a white solid (0.150 g, 29%). MS (ISP) 512.3 [(M+H)+].

reactant | 2-(4-tributylstannanyl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine | 1.0 mmol, 0.718 g | C(CCC)[Sn](C=1N=CN(C1)C1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)(CCCC)CCCC
reactant | 3-bromophenylmethyl sulfone | 1.1 mmol, 259 mg | BrC=1C=C(C=CC1)CS(=O)(=O)CC1=CC(=CC=C1)Br | C14H12Br2O2S
reactant | heptane | CCCCCCC | C7H16
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | ˜5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(3-Methanesulfonyl-phenyl)-imidazol-1-yl]-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyridine | 0.150 g, 29% | CS(=O)(=O)C=1C=C(C=CC1)C=1N=CN(C1)C1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C23H15F6N3O2S
